US08633186B2
1-ethyl-3-(3-hydroxy-2,2-dimethylpropyl)urea
To a solution of 3-amino-2,2-dimethylpropan-1-ol (1.03 g, 10 mmol) in dry 1,4-dioxane (20 mL) was added dropwise ethyl isocyanate (0.71 g, 10 mmol) at room temperature under nitrogen. The reaction mixture was then stirred at room temperature under nitrogen overnight. The solvent was removed under reduced pressure to give the title compound as colorless oil (1.74 g, 100%). MS 175 (MH+).

reactant | 3-amino-2,2-dimethylpropan-1-ol | 10 mmol, 1.03 g | NCC(CO)(C)C | C5H13NO
reactant | ethyl isocyanate | 10 mmol, 0.71 g | C(C)N=C=O | C3H5NO
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 1-ethyl-3-(3-hydroxy-2,2-dimethylpropyl)urea | 1.74 g, 100% | C(C)NC(=O)NCC(CO)(C)C | C8H18N2O2
